US08735584B2
(3-Bromo-5-nitro-pyridin2-yl)-carbamic acid tert-butyl ester (100 mg, 0.31 mmol) and tin chloride (298 mg, 1.57 mmol) were dissolved in EtOH (3 mL), and stirred for 2 h at 40° C. The reaction solution was quenched with 2M NaOH, diluted with EtOAc, and filtered through an Extrelut column. The column was washed with EtOAc, and the filtrate was concentrated to provide (5-amino-3-bromo-pyridin-2-yl)-carbamic acid tert-butyl ester (85 mg, 94% yield) as a brown solid.

reactant | (3-Bromo-5-nitro-pyridin2-yl)-carbamic acid tert-butyl ester | 0.31 mmol, 100 mg | C(C)(C)(C)OC(NC1=NC=C(C=C1Br)[N+](=O)[O-])=O | C10H12BrN3O4
reactant | tin chloride | 1.57 mmol, 298 mg | [Sn](Cl)(Cl)(Cl)Cl
solvent | EtOH | 3 mL | CCO | C2H6O
product | (5-amino-3-bromo-pyridin-2-yl)-carbamic acid tert-butyl ester | 85 mg, 94% yield | C(C)(C)(C)OC(NC1=NC=C(C=C1Br)N)=O | C10H14BrN3O2
